US06734179B2
2-[(2-Methoxy-ethyl)-methyl-amino]-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide
From 2-bromo-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide with cesium carbonate and N-(2-methoxyethyl)methylamine. ES-MS m/e (%): 457 (M+H+, 100).

reactant | 2-bromo-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=CN1 | C19H18BrN3O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-(2-methoxyethyl)methylamine | COCCNC | C4H11NO
product | 2-[(2-Methoxy-ethyl)-methyl-amino]-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide | COCCN(C=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=CN1)C | C23H28N4O4S
